US07662972B2
Step 4: Production of 4-[5-(3,5-dichlorophenyl)-5-trifiuoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxy benzoic acid.
In a solution of 1.07 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxy benzoic acid ethyl ester in 30 ml of ethanol, a solution of 1.0 g of sodium hydroxide in 30 ml of water was added, stirred at 85° C. for 1 hour. After the completion of the reaction, the solvent was distilled off under reduced pressure. The residue was adjusted to pH 2 to 3 with concentrated hydrochloric acid, and extracted with ethyl acetate (30 ml×2). The organic phase was dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain 1.0 g of the aimed product as pale yellow resinous substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxy benzoic acid ethyl ester | 1.07 g | C(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)OC)=O | C20H16Cl2F3NO4
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | 4-[5-(3,5-dichlorophenyl)-5-trifiuoromethyl-4,5-dihydroisoxazol-3-yl]-2-methoxy benzoic acid | 1.0 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)OC)C(F)(F)F | C18H12Cl2F3NO4
